US05686461
Ethyl 1-Phenylsulfonyl-4,6-dichloro-3-formyl-indole-2-carboxylate
A solution of ethyl 3-formyl-4,6-dichloroindole-2-carboxylate (5.0 g) in dry DMF (30 ml) was added to a suspension of sodium hydride (0.629 g; 80% suspension in mineral oil) in dry DMF (10 ml) under nitrogen at 0°. The reaction was stirred at this temperature for 45 min then phenylsulfonyl chloride (2.5 ml) was added giving a yellow precipitate. The reaction was allowed to warm slowly to room temperature, stirred for a further 14 h then poured into water (250 ml). The solid was filtered, washed with water and then with ethyl acetate to give the title compound (4.493 g,) as a white solid, m.p. 225.8°-226.3°.

reactant | ethyl 3-formyl-4,6-dichloroindole-2-carboxylate | 5.0 g | C(=O)C1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C12H9Cl2NO3
reactant | sodium hydride | 0.629 g | [H-].[Na+]
reactant | phenylsulfonyl chloride | 2.5 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 250 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Ethyl 1-Phenylsulfonyl-4,6-dichloro-3-formyl-indole-2-carboxylate | 4.493 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=C(C2=C(C=C(C=C12)Cl)Cl)C=O)C(=O)OCC | C18H13Cl2NO5S
